US08048878B2
Synthesis of 1-[(2R*,6S*)-2-(4-fluorophenyl)-6-vinylpiperidin-1-yl]-4-penten-1-one
To a solution of (2R*,6S*)-2-(4-fluorophenyl)-6-vinylpiperidine (460 mg) and diisopropylamine (0.59 mL) in methylene chloride (10 mL), 4-pentenoyl chloride (0.37 mL) was added, and the reaction solution was stirred at room temperature for 1.5 hours. Chloroform and 1 N aqueous hydrochloric acid were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with saturated sodium bicarbonate water, dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane->heptane:ethyl acetate=1:1) to obtain 307 mg of the title compound. The property value of the compound is as follows.

reactant | (2R*,6S*)-2-(4-fluorophenyl)-6-vinylpiperidine | 460 mg | FC1=CC=C(C=C1)[C@@H]1N[C@@H](CCC1)C=C | C13H16FN
reactant | diisopropylamine | 0.59 mL | C(C)(C)NC(C)C | C6H15N
reactant | Chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | 4-pentenoyl chloride | 0.37 mL | C(CCC=C)(=O)Cl | C5H7ClO
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-[(2R*,6S*)-2-(4-fluorophenyl)-6-vinylpiperidin-1-yl]-4-penten-1-one | 307 mg | FC1=CC=C(C=C1)[C@@H]1N([C@@H](CCC1)C=C)C(CCC=C)=O | C18H22FNO
